US07795236B2
tert-Butyl N-[3′-(3-piperidine-1-ylpropoxy)biphenyl-4-yl-methyl]carbamate
The title compound was prepared in a similar manner to that described in Reference Example 139 using tert-butyl N-[3′-(3-chloropropoxy)biphenyl-4-ylmethyl]carbamate instead of 3-(3-chloropropoxy)-4-phenylbenzonitrile and piperidine instead of pyrrolidine.

reactant | tert-butyl N-[3′-(3-chloropropoxy)biphenyl-4-ylmethyl]carbamate | ClCCCOC=1C=C(C=CC1)C1=CC=C(C=C1)CNC(OC(C)(C)C)=O | C21H26ClNO3
reactant | piperidine | N1CCCCC1 | C5H11N
product | tert-Butyl N-[3′-(3-piperidine-1-ylpropoxy)biphenyl-4-yl-methyl]carbamate | N1(CCCCC1)CCCOC=1C=C(C=CC1)C1=CC=C(C=C1)CNC(OC(C)(C)C)=O | C26H36N2O3
